US08044216B2
Synthesis of biphenyl-4-ylmethyl-carbamic acid t-butyl ester
To the mixture of 4-chlorobiphenyl (30 mg, 0.16 mmol) and 1,4-dioxane (1.5 ml), water (0.15 ml), cesium carbonate (0.31 g, 0.95 mmol), disodium 1,4-bis(t-butoxycarbonyl)-2,2,5,5-tetrafluoro-1,4,2,5-diazadiborinane-2,5-diuide (64 mg, 0.16 mmol), palladium(II) acetate (3.6 mg, 0.016 mmol), and 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (13 mg, 0.032 mmol) were added at room temperature, and then the obtained reaction mixture was stirred at 100° C. (an outer temperature) overnight. The reaction mixture was cooled to room temperature, and then water and ethyl acetate were added to the reaction mixture, followed by filtration with celite. The organic layer of the filtrate was separated and washed with saline. The solvents were evaporated under reduced pressure from the organic layer, and then the obtained residue was purified with silica gel column chromatography (heptane:ethyl acetate=5:1), thereby obtaining the entitled compound (30 mg, 67%).

reactant | 4-chlorobiphenyl | 0.16 mmol, 30 mg | ClC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Cl
reactant | cesium carbonate | 0.95 mmol, 0.31 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | disodium 1,4-bis(t-butoxycarbonyl)-2,2,5,5-tetrafluoro-1,4,2,5-diazadiborinane-2,5-diuide | 0.16 mmol, 64 mg | C(C)(C)(C)OC(=O)N1[B-](CN([B-](C1)(F)F)C(=O)OC(C)(C)C)(F)F.[Na+].[Na+]
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 0.032 mmol, 13 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
catalyst | palladium(II) acetate | 0.016 mmol, 3.6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | water | 0.15 ml | O | H2O
solvent | 1,4-dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
product | biphenyl-4-ylmethyl-carbamic acid t-butyl ester | 30 mg, 67% | C(C)(C)(C)OC(NCC1=CC=C(C=C1)C1=CC=CC=C1)=O | C18H21NO2
